### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Adjunction): more results on adjoint triples.

### PR DESCRIPTION
**Pull request by peabrainiac**
Lemmas about adjoint triples `F ⊣ G ⊣ H` where either `G` is fully faithful or `F` and `H` are.

---

Continued / revived from #24321.

### CODE REVIEW

**Comment by peabrainiac** [comment]
## Comments from Original PR #24321

*This section contains 4 comment(s) from the original PR, excluding bot comments.*

---

**@peabrainiac** ([2025-04-23 15:02 UTC](https://github.com/leanprover-community/mathlib4/pull/24321#issuecomment-2824616435)):
I think the large import is nothing to worry about, since this is a leaf file and it is not clear yet if any future importers would benefit from splitting it up; however, since it is only 8 lemmas that need the additional import it could also make sense to move them into some new file like `Adjunction.EpiMono`. I plan on adding two more lemmas like that in another PR later, on quadruples instead of triples.

Particular attention should probably go to the lemmas added to `CategoryTheory.EpiMono`, since they are general API rather than specific to adjoint triples; let me know if I should split them off into a separate PR.

---

**@peabrainiac** ([2025-05-07 22:51 UTC](https://github.com/leanprover-community/mathlib4/pull/24321#issuecomment-2860628250)):
!bench

---

**@peabrainiac** ([2025-05-09 00:24 UTC](https://github.com/leanprover-community/mathlib4/pull/24321#issuecomment-2864761661)):
I've renamed the natural transformations and introduced the `Triple` structure now. I'm a bit unsure about the latter change; it definitely solves the naming problem, but also adds complexity in that when you want to apply the lemmas to adjunctions `adj₁`, `adj₂`, you now need to construct the triple `⟨t.adj₁, t.adj₂⟩` first, and then the lemmas are about `⟨t.adj₁, t.adj₂⟩.adj₁` and `⟨t.adj₁, t.adj₂⟩.adj₂` instead of `adj₁` and `t.adj₂`. Of course that's equal, but not reducibly so; I'm not sure if that could cause issues.

Regarding the lemmas about natural transformations as a whole being epic/monic, you're probably right that just proving that when needed is enough; I've removed them now. That also had the nice side effect of removing the extra imports, so the question of whether those lemmas should go into a different file is resolved now too.

That is all I can do for now; I'll have a think about the alternative structure you posted later.

---

**@peabrainiac** ([2025-05-29 05:37 UTC](https://github.com/leanprover-community/mathlib4/pull/24321#issuecomment-2918349654)):
I have implemented your alternative definition `rightToLeft` now; it was indeed quite helpful for cleaning up the proofs. I also tried to clean up `leftToRight` in a similar way, but as far as I can see this approach doesn't really carry over to that case, so there is somewhat of an asymmetry in the API now. Nonetheless, I think this is as good as I can make it for now.

**Comment by peabrainiac** [comment]
Since the script only copied comments on the PR over, not comments from code review: the last activity on the previous PR was that @joelriou suggested to define two versions of `Triple.leftToRight`, one for when `F` is fully faithful and one for when `H` is. I remarked that I wasn't sure whether this was a good idea, since `F` is fully faithful iff `H` is and so one doesn't actually gain generality from requiring only one.

It would be nice to finally resolve this (really either way is fine for me, I mostly care about the lemmas later in the file) and get this PR over the finish line.

File: Mathlib/CategoryTheory/EpiMono.lean [hunk 1]
```diff
@@ -242,4 +242,34 @@ instance {X Y : C} (f : X ⟶ Y) [hf : IsSplitEpi f] (F : C ⥤ D) : IsSplitEpi
 
 end
 
+section
+
+/-- When `f` is an epimorphism, `f ≫ g` is epic iff `g` is. -/
+@[simp]
+lemma epi_comp_iff_of_epi {X Y Z : C} (f : X ⟶ Y) [Epi f] (g : Y ⟶ Z) :
+    Epi (f ≫ g) ↔ Epi g := by
+  refine ⟨fun h ↦ epi_of_epi f _, fun h ↦ inferInstance⟩
```
Comment (joelriou) [inline Mathlib/CategoryTheory/EpiMono.lean]:
```suggestion
    Epi (f ≫ g) ↔ Epi g :=
  ⟨fun h ↦ epi_of_epi f _, fun h ↦ inferInstance⟩
```

File: Mathlib/CategoryTheory/EpiMono.lean [hunk 2]
```diff
@@ -242,4 +242,34 @@ instance {X Y : C} (f : X ⟶ Y) [hf : IsSplitEpi f] (F : C ⥤ D) : IsSplitEpi
...
+lemma mono_comp_iff_of_isIso {X Y Z : C} (f : X ⟶ Y) [IsIso f] (g : Y ⟶ Z) :
+    Mono (f ≫ g) ↔ Mono g := by
+  refine ⟨fun h ↦ ?_, fun h ↦ inferInstance⟩
+  simpa using (inferInstance : Mono (inv f ≫ f ≫ g))
+
+/-- When `g` is a monomorphism, `f ≫ g` is monic iff `f` is. -/
+@[simp]
+lemma mono_comp_iff_of_mono {X Y Z : C} (f : X ⟶ Y) (g : Y ⟶ Z) [Mono g] :
+    Mono (f ≫ g) ↔ Mono f := by
+  refine ⟨fun h ↦ mono_of_mono _ g, fun h ↦ inferInstance⟩
```
Comment (joelriou) [inline Mathlib/CategoryTheory/EpiMono.lean]:
```suggestion
    Mono (f ≫ g) ↔ Mono f :=
  ⟨fun h ↦ mono_of_mono _ g, fun h ↦ inferInstance⟩
```

**Comment by joelriou** [comment]
Thanks!

bors merge
